US06620829B2
Cyclohexylidene-acetonitrile (2)
Sodium hydride (60% in oil, 0.80 g, 20 mmol) was suspended in 50 mL tetrahydrofuran and chilled in ice under nitrogen. Diethylcyanomethyl phosphonate (3.85 g, 22 mmol) was added dropwise in 10 mL tetrahydrofuran and stirring continued for 15 minutes to give a clear solution. Cyclohexanone (1.90 g, 19 mol) was added in 5 mL tetrahydrofuran and the reaction mixture allowed to warm up to room temperature. The liquor was decanted and the residue washed three times with ether. The liquor and washings were combined, washed with dilute hydrochloric acid and water, dried over magnesium sulphate, filtered, and evaporated to dryness. The residue was purified by chromatography on silica eluting with heptane/ethyl acetate 4:1 to give the required product as a colorless oil (1.5 g, 67%).

reactant | Sodium hydride | 20 mmol, 0.80 g | [H-].[Na+]
reactant | Diethylcyanomethyl phosphonate | 22 mmol, 3.85 g | P(OC(C#N)(CC)CC)([O-])=O
reactant | Cyclohexanone | 19 mol, 1.90 g | C1(CCCCC1)=O | C6H10O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Cyclohexylidene-acetonitrile | 1.5 g, 67% | C1(CCCCC1)=CC#N | C8H11N
